US07238716B2
To a mixture of ethyl 3-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]propenoate (2.00 g), tetrahydrofuran (10 mL) and ethanol (10 mL) was added a 1N aqueous sodium hydroxide solution (7 mL) and the mixture was stirred at 70° C. for 3 hrs. The reaction mixture was concentrated, and dilute hydrochloric acid was added to acidify the residue. The precipitated solid was collected by filtration and dried with air to give crystals (1.77 g, yield 94%) of 3-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]propenoic acid. Recrystallization from tetrahydrofuran-diisopropyl ether gave colorless prism crystals. melting point: 174-175° C.

reactant | ethyl 3-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]propenoate | 2.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2C=CC(=O)OCC)C=C1 | C28H26N2O5
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 7 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]propenoic acid | 1.77 g, yield 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2C=CC(=O)O)C=C1 | C26H22N2O5
